US07501438B2
To a solution of naphthalene-1-carboxylic acid (pyridin-2-ylmethyl)-amide (2.80 g, 10.7 mmol) in toluene (100 mL) was added POCl3 (9 mL). The mixture was heated to 90° C. for 12 h. After this time the mixture was allowed to cool and poured slowly into 10% aqueous potassium carbonate (500 mL). The mixture was extracted with ethyl acetate (2×100 mL) and the combined organic layers were dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was chromatographed on silica to yield 3-naphthalen-1-yl-imidazo[1,5-a]pyridine (1.89 g, 72%).

reactant | naphthalene-1-carboxylic acid (pyridin-2-ylmethyl)-amide | 10.7 mmol, 2.80 g | N1=C(C=CC=C1)CNC(=O)C1=CC=CC2=CC=CC=C12 | C17H14N2O
reactant | POCl3 | 9 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | potassium carbonate | 500 mL | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 3-naphthalen-1-yl-imidazo[1,5-a]pyridine | 1.89 g, 72% | C1(=CC=CC2=CC=CC=C12)C1=NC=C2N1C=CC=C2 | C17H12N2
